US09029560B2
Preparation of N-(cyclopropylmethyl)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanamine (CB27)
The title compound was prepared from tert-butyl (cyclopropylmethyl)(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate (CB66), neutralized with aqueous sodium bicarbonate, and isolated as a white solid (0.125 g, 100%): mp 162-166° C.; 1H NMR (400 MHz, CDCl3) δ 8.54 (s, 1H), 8.15-8.09 (m, 2H), 7.81-7.75 (m, 2H), 7.38 (dq, J=8.9, 0.9 Hz, 2H), 7.34-7.29 (m, 2H), 3.22 (dd, J=10.2, 6.0 Hz, 2H), 3.09 (dd, J=10.0, 6.1 Hz, 2H), 2.84 (d, J=7.3 Hz, 2H), 1.11 (ddd, J=12.7, 8.1, 4.8 Hz, 1H), 0.86 (dd, J=12.8, 5.8 Hz, 1H), 0.69-0.58 (m, 2H), 0.37-0.29 (m, 2H); 19F NMR (376 MHz, CDCl3) δ −58.03; ESIMS m/z 403 ([M+H]+).

reactant | tert-butyl (cyclopropylmethyl)(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)carbamate | C1(CC1)CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C26H29F3N4O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-(cyclopropylmethyl)-2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)ethanamine | C1(CC1)CNCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C21H21F3N4O
